US09126970B2
Step b): 7-Dibenzofuran-4-yl-10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
16.6 g (58.78 mmol) of 7-dibenzofuran-4-yl-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene are dissolved in 225 ml of dimethylformamide under a protective-gas atmosphere, and 2.8 g of 60% NaH in mineral oil (70 mmol) are added. After 1 h at room temperature, a solution of 2-chloro-4,6-diphenyl-1,3,5-triazine (18.6 g, 66.2 mmol) in 75 ml of dimethylformamide is added dropwise. The reaction mixture is stirred at room temperature for 12 h. After this time, the reaction mixture is poured onto ice and extracted three times with dichloromethane. The combined organic phases are dried over Na2SO4 and evaporated. The residue is extracted with hot toluene, recrystallised from dichloromethane/isopropanol and finally sublimed in a high vacuum, the purity is 99.9%. The yield is 18.3 g (27 mmol, 45.7%).

reactant | 7-dibenzofuran-4-yl-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 58.78 mmol, 16.6 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C=3C=C2C=1C=C4C(=CC1NC2=CC3)C(C3=CC=CC=C34)(C)C | C33H23NO
reactant | NaH | 2.8 g | [H-].[Na+]
reactant | 2-chloro-4,6-diphenyl-1,3,5-triazine | 66.2 mmol, 18.6 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
solvent | dimethylformamide | 225 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 7-Dibenzofuran-4-yl-10-(4,6-diphenyl-1,3,5-triazin-2-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C=3C=C2C=1C=C4C(=CC1N(C2=CC3)C3=NC(=NC(=N3)C3=CC=CC=C3)C3=CC=CC=C3)C(C3=CC=CC=C34)(C)C | C48H32N4O
